US03992400
In the manner given in Preparation 1, 5-(trifluoromethyl)-2-aminobenzophenone is refluxed with hydrazine hydratein diethylene glycol to give 5-trifluoromethyl-2-aminobenzophenone hydrazone.

reactant | 5-(trifluoromethyl)-2-aminobenzophenone | FC(C=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N)(F)F | C14H10F3NO
reactant | hydrazine | NN | H4N2
product | 5-trifluoromethyl-2-aminobenzophenone hydrazone | FC(C=1C=CC(=C(C(C2=CC=CC=C2)=NN)C1)N)(F)F | C14H12F3N3
